US04866176
To a mixture of 0.24 g of 6-acetamido-8-(1-piperazinyl)-1,7-naphthyridine (Compound No. 1) and 0.1 g of triethylamine added was 15 ml of anhydrous methylene chloride, and the mixture was further added with 0.19 g of p-nitrobenzoyl chloride under ice-cooling, stirred for 3 hour at room temperature, washed with water and dried by anhydrous sodium sulfate. Methylene chloride was distilled off in vacuo, the residue obtained was purified by silica gel column chromatography. Then, 0.36 g of yellowish crystal, 6-acetamido-8-[4-(p-nitrobenzoyl)-1-piperazinyl]-1,7-naphthyridine (Compound No. 8), was obtained by recystallization from chloroform - ether mixed solvent (yield: 96.8%).

reactant | 6-acetamido-8-(1-piperazinyl)-1,7-naphthyridine | 0.24 g | C(C)(=O)NC=1C=C2C=CC=NC2=C(N1)N1CCNCC1 | C14H17N5O
reactant | triethylamine | 0.1 g | C(C)N(CC)CC | C6H15N
reactant | p-nitrobenzoyl chloride | 0.19 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | chloroform ether | yield: 96.8% | C(Cl)(Cl)Cl.CCOCC | InChI=1S/C4H10O.CHCl3/c1-3-5-4-2;2-1(3)4/h3-4H2,1-2H3;1H
